US06677364B2
A solution of 4-[2-[2-(N-methyl-N-phenylmethoxycarbonylamino)ethyl]-4-phenyloxazol-5-yl]benzenesulfonamide and 4-[2-[2-(N-methyl-N-phenyl-methoxycarbonylamino)ethyl]-5-phenyloxazol-4-yl]benzenesulfonamide (0.7 g, 1.4 mmol) from Step 3, in MeOH (15 mL) containing acetic acid (0.1 mL) was treated with 10% Pd on carbon (0.4 g) and stirred under an atmosphere of hydrogen at 50 psi at room temperature for 3 h. The catalyst was removed by filtration, the filtrate was concentrated under reduced pressure, and the resulting substance was purified by reverse-phase HPLC using a gradient of 5-70% CH3CN in water to give 0.42 g of 4-[2-[2-(N-methylamino)ethyl]-4-phenyloxazol-5-yl]benzenesulfonamide and 4-[2-[2-(N-methylamino)ethyl]-5-phenyloxazol-4-yl]benzenesulfonamide trifluoroacetate salts as a white powder: 1H NMR (CD3OD/300 MHz) δ 7.88 (d, 2H, J=8.7 Hz), 7.74 (d, 2H, J=8.7 Hz), 7.6 (m, 2H), 7.43 (m, 3H), 3.55 (t, 2H, J=6.6 Hz), 3.36 (t, 2H, J=6.6 Hz), 2.82 (s, 3H); FABMS m/z =358 (M+H).

reactant | 4-[2-[2-(N-methyl-N-phenylmethoxycarbonylamino)ethyl]-4-phenyloxazol-5-yl]benzenesulfonamide | CN(C(=O)OCC1=CC=CC=C1)CCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N | C26H25N3O5S
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd on carbon | 0.4 g | [Pd] | Pd
product | 4-[2-[2-(N-methylamino)ethyl]-4-phenyloxazol-5-yl]benzenesulfonamide | 0.42 g | CNCCC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N | C18H19N3O3S
